US08383641B2
a.1 [2-(6-Methoxy-5-nitro-pyridin-2-yloxy)-ethyl]-propyl-carbamic Acid Tert-Butyl Ester
A mixture of 6-bromo-2-methoxy-3-nitropyridine (5 g, 21.46 mmol), (2-hydroxy-ethyl)-propyl-carbamic acid tert-butyl ester (4.36 g, 21.46 mmol) and K2CO3 (2.97 g, 21.46 mmol) in dimethylformamide (DMF) (60 ml) was stirred at room temperature for 24 h and at 40° C. for 4 h. After evaporation of the solvent under reduced pressure the residue was purified by silica gel chromatography with dichloromethane/methanol (10:0; 9:1; 7:3; 0:10) as eluent to provide 2.81 g (36.9%) of the product.

reactant | 6-bromo-2-methoxy-3-nitropyridine | 21.46 mmol, 5 g | BrC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | (2-hydroxy-ethyl)-propyl-carbamic acid tert-butyl ester | 21.46 mmol, 4.36 g | C(C)(C)(C)OC(N(CCC)CCO)=O | C10H21NO3
reactant | K2CO3 | 21.46 mmol, 2.97 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | [2-(6-Methoxy-5-nitro-pyridin-2-yloxy)-ethyl]-propyl-carbamic Acid Tert-Butyl Ester | 2.81 g, 36.9% | C(C)(C)(C)OC(N(CCC)CCOC1=NC(=C(C=C1)[N+](=O)[O-])OC)=O | C16H25N3O6
